US07582753B2
(5-Cyclohexyl-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl)-acetic acid ethyl ester
[1-[[[2-(Cyclohexylcarbonyl)phenyl]amino]carbonyl]hydrazino]-acetic acid ethyl ester (20 mg) was dissolved in TFA (0.2 mL) and aged for about 15 min. HPLC analysis at this point revealed the disappearance of the signal @ 10.5 min corresponding to starting material, and the appearance of a signal @ 11.01 min corresponding to product. This material was characterized by comparison of the HPLC traces with that of an authentic sample.

reactant | [1-[[[2-(Cyclohexylcarbonyl)phenyl]amino]carbonyl]hydrazino]-acetic acid ethyl ester | 20 mg | C(C)OC(CN(N)C(=O)NC1=C(C=CC=C1)C(=O)C1CCCCC1)=O | C18H25N3O4
solvent | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (5-Cyclohexyl-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl)-acetic acid ethyl ester | C(C)OC(CN1N=C(C2=C(NC1=O)C=CC=C2)C2CCCCC2)=O | C18H23N3O3
